US07589091B2
Step B: 4-Benzyloxy-but-2-yn-1-ol (I1b)
The crude alkyne I1 (81.9 g, 560 mmol) was dissolved in 500 ml of THF and cooled to −78° C. A 2.5M solution of n-hexyl lithium (250 ml, 625 mmol) was added dropwise over a period of 2 hours, so that the temperature did not exceed −70° C. Stirring was continued for 3 hours at −78° C. and then solid paraformaldehyde (20.18 g, 672 mmol) was added. The dry ice-bath was removed and the reaction allowed to warm up to room temperature over night (approx. 20 hours). The mixture was diluted with 600 ml of TBME and extracted with 400 ml of an ammonium chloride solution (20%). The aqueous layer was extracted once more with 200 ml of TBME and the combined organic fractions were washed three times with 400 ml of a brine, dried over anhydrous sodium sulfate and evaporated to give an orange liquid. Yield: 87.9 g (89%).

reactant | n-hexyl lithium | 625 mmol, 250 ml | C(CCCCC)[Li]
reactant | paraformaldehyde | 672 mmol, 20.18 g | C=O | CH2O
reactant | THF | 500 ml | C1CCOC1 | C4H8O
product | 4-Benzyloxy-but-2-yn-1-ol | C(C1=CC=CC=C1)OCC#CCO | C11H12O2
